US06750232B2
6-(2-Furyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile
A suspension of 3-(dimethylamino)-1-(2-furyl)-2-propen-1-one (15.0 g, 90.9 mmol), 2-cyanoacetamide (8.5 g, 101 mmol) and potassium carbonate (38.0 g, 275 mmol) in dimethyl sulfoxide (80 ml) was stirred at 120 to 140° C. for 21 hours. After cooling as it was, the reaction mixture was diluted with water. After adjusting to pH 3 with conc. hydrochloric acid, the resulting solid was collected by filtration and washed with water, to give the title compound (13.0 g, 77%) as a brown solid.

reactant | 3-(dimethylamino)-1-(2-furyl)-2-propen-1-one | 90.9 mmol, 15.0 g | CN(C=CC(=O)C=1OC=CC1)C | C9H11NO2
reactant | 2-cyanoacetamide | 101 mmol, 8.5 g | C(#N)CC(=O)N | C3H4N2O
reactant | potassium carbonate | 275 mmol, 38.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-(2-Furyl)-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 13.0 g, 77% | O1C(=CC=C1)C1=CC=C(C(N1)=O)C#N | C10H6N2O2
